US04072696
0.7 G. of 2-amino-4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)benzene is treated with 1.5 ml. of acetyl chloride. The mixture is stripped after two hours and the residue recrystallized to afford 2-acetamido-4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)benzene.

reactant | 2-amino-4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)benzene | NC1=C(C=CC(=C1)SC(N)=O)NC(=S)NC(=O)OC | C10H12N4O3S2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 2-acetamido-4-carbamoylthio-1-(3-methoxycarbonyl-2-thioureido)benzene | C(C)(=O)NC1=C(C=CC(=C1)SC(N)=O)NC(=S)NC(=O)OC | C12H14N4O4S2
